US07358370B2
3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one (Compound 1)
To a solution of anti-pyruvic aldehyde-1-oxime (10 g, 1 eq) and 5,5-dimethyl-1,3-cyclohexanedione (16.1 g, 1 eq) in HOAc—H2O (7:3, 200 mL) was added zinc powder (14.95 g, 2 eq) slowly with cooling by a water bath at room temperature. The mixture then was refluxed overnight, concentrated to dryness, partitioned between brine (300 mL) and dichloromethane (300 mL). The pH was adjusted to ca. 6 with saturated aqueous NaHCO3, then the mixture was extracted with dichloromethane (3×200 mL). The organic layers were combined, dried over Na2SO4, filtered, concentrated. The crude product was purified by flash chromatography eluting with 5% ethyl acetate in dichloromethane. The combined organic fractions were concentrated, triturated in ether-hexane (2:1) for 1 hour, then filtered, washed with hexane to give the pure title compound (9 g, 45% yield) as a solid. LCMS m/z: (M+H)=178.1.

reactant | anti-pyruvic aldehyde-1-oxime | 10 g, 1 eq | CC(=O)/C=N/O | C3H5NO2
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 16.1 g, 1 eq | CC1(CC(CC(C1)=O)=O)C | C8H12O2
solvent | HOAc—H2O | 200 mL | OC(=O)C.O
catalyst | zinc | 14.95 g, 2 eq | [Zn] | Zn
product | 3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one | 9 g, 45% yield | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
